US07781438B2
Preparation of 6-Chloro-3-methylisoquinoline
During 10 min. (4-chloro-benzyl)-[2,2-dimethoxy-1-methyl-eth-(Z)-ylidene]-amine (120 g, 0.496 mol) was added dropwise to polyphosphoric acid (1000 g) at 130° C. The resulting reaction mixture was heated for 3 h at 140° C. After cooling below 100° C. the reaction mixture was poured onto ice (1 kg) and neutralized (pH=7) with a 33% aqueous NaOH solution. Care was taken that the temperature did not rise above 35° C. by adding additional ice. The reaction mixture was extracted with dichloromethane (3×1 L) and the combined organic layers were dried over Na2SO4, filtered and concentrated at reduced pressure to afford a black oil. The crude product was purified bulb-to-bulb distillation (105-110° C., 2 mbar) to afford the title compound as colorless oil which crystallized upon standing (66.7 g, 0.375 mol, 76%). MS (ES+): 178 (M(C10H835ClN)+H)+.

reactant | (4-chloro-benzyl)-[2,2-dimethoxy-1-methyl-eth-(Z)-ylidene]-amine | 0.496 mol, 120 g | ClC1=CC=C(C\N=C(/C(OC)OC)\C)C=C1 | C12H16ClNO2
reactant | NaOH | [OH-].[Na+]
product | 6-Chloro-3-methylisoquinoline | ClC=1C=C2C=C(N=CC2=CC1)C | C10H8ClN
